US04738975
3-Methoxy-2-methyl-4(1H)-pyridone (5.6 g) was suspended in phosphorus oxychloride (50 ml), refluxed for 10 hours, and concentrated. To the resultant residue was added toluene and the residual phosphorus oxychloride was evaporated under reduced pressure. To the resultant oily substance were added chloroform and water and the chloroform layer was separated. The aqueous layer was made alkaline with potassium carbonate and extracted with chloroform. The chloroform solutions thus obtained were combined, washed with water, dried, and evaporated. The residue was purified by column chromatography on silica gel, to give 4-chloro-3-methoxy-2-methylpyridine (4.8 g) as a light brown oil.

reactant | 3-Methoxy-2-methyl-4(1H)-pyridone | 5.6 g | COC1=C(NC=CC1=O)C | C7H9NO2
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-3-methoxy-2-methylpyridine | 4.8 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
